US07282507B2
2-(5-Chloro-6-trifluoromethyl-1H-indol-2-yl)-1-(2,2,2-trifluoro-ethylsulfanyl)-butan-2-ol
This compound was prepared using the standard de-protection procedure from, as described in General Procedures Example B, reacting 2-(5-chloro-1-methanesulfonyl-6-trifluoromethyl-1H-indol-2-yl)-1-(2,2,2-trifluoro-ethylsulfanyl)-butan-2-ol (0.24 g, 0.50 mmol) and using 4N sodium hydroxide as a base (0.37 mL, 0.50 mmol) to yield the title compound as a yellow sticky oil.

reactant | 2-(5-chloro-1-methanesulfonyl-6-trifluoromethyl-1H-indol-2-yl)-1-(2,2,2-trifluoro-ethylsulfanyl)-butan-2-ol | 0.50 mmol, 0.24 g | ClC=1C=C2C=C(N(C2=CC1C(F)(F)F)S(=O)(=O)C)C(CSCC(F)(F)F)(CC)O | C16H16ClF6NO3S2
reactant | sodium hydroxide | 4N | [OH-].[Na+]
product | 2-(5-Chloro-6-trifluoromethyl-1H-indol-2-yl)-1-(2,2,2-trifluoro-ethylsulfanyl)-butan-2-ol | ClC=1C=C2C=C(NC2=CC1C(F)(F)F)C(CSCC(F)(F)F)(CC)O | C15H14ClF6NOS
